US06380437B1
30.9 g 3,7-dimethyl-1-octin-3-ol, 28.9 g isopropenyl methyl ether and 60 ml n-heptane were initially introduced into a 250 ml flask and 25 mg pyridinium toluene-4-sulfonate were then added. The reaction mixture was stirred under reflux for 7 hours. During this period of time, 14.4 g isopropenyl methyl ether and 25 mg pyridinium toluene-4-sulfonate were added in two portions. When the reaction had ended, the solution was evaporated. The residue was distilled in vacuo. 31.9 g 6,10-dimethyl-4,5-undecadien-2-one were obtained, which corresponds to a yield of 82%.

reactant | 3,7-dimethyl-1-octin-3-ol | 30.9 g | CC(C#C)(CCCC(C)C)O | C10H18O
reactant | isopropenyl methyl ether | 28.9 g | COC(=C)C | C4H8O
reactant | isopropenyl methyl ether | 14.4 g | COC(=C)C | C4H8O
catalyst | pyridinium toluene-4-sulfonate | 25 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
catalyst | pyridinium toluene-4-sulfonate | 25 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | n-heptane | 60 ml | CCCCCCC | C7H16
product | 6,10-dimethyl-4,5-undecadien-2-one | 31.9 g, yield of 82% | CC(=C=CCC(C)=O)CCCC(C)C | C13H22O
